US05500429
1-(2-Furanyl)-3-(4-pyridinyl)-2-propene-1-one
Dissolve anhydrous cobalt(II) acetate (700 mg, 4 mmol ) in dimethylformamide (150 mL). Add 2,2'-dipyridyl (600 mg, 4 mmol) and stir for 30 minutes. Add 4-pyridinecarboxaldehyde (5 g, 50 mmol) and 2-acetylfuran (5.5 g, 50 mmol). Heat at 80° C. for 18 hours. Evaporate the solvent and purify the residue by silica gel chromatography (1:1 toluene/ethyl acetate) to yield 30 mg of the title compound; mp 122°-124° C.

reactant | 4-pyridinecarboxaldehyde | 50 mmol, 5 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 2-acetylfuran | 50 mmol, 5.5 g | C(C)(=O)C=1OC=CC1 | C6H6O2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
catalyst | cobalt(II) acetate | 4 mmol, 700 mg | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 1-(2-Furanyl)-3-(4-pyridinyl)-2-propene-1-one | 30 mg | O1C(=CC=C1)C(C=CC1=CC=NC=C1)=O | C12H9NO2
